US07872014B2
To a solution of 0.625 g (2.80 mmol) 4-bromonapthalen-2-ol in dichloroethane (2.5 mL) was added aluminum chloride (0.561 g, 4.20 mmol), followed by acetyl chloride (0.20 mL, 2.8 mmol). The solution was refluxed for 2 h, then poured into 50 mL ice-cold 1M hydrochloric acid. This solution was extracted with dichloromethane (2×100 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. Column chromatography (SiO2, 3:1 hexanes/ethyl acetate) gave 0.619 g (83%) of 1-(4-bromo-2-hydroxynapthalen-1-yl)ethanone as a pale pink solid. 1H NMR (400 MHz, d6-DMSO): 13.22 (s, 1H), 8.25 (d, 1H), 8.04 (d, 1H), 7.61 (dt, 1H), 7.51 (s, 1H), 7.49 (t, 1H), 2.83 (s, 3H); MS (EI) for C12H9O2Br: 265 (MH+), 267 (M+2).

reactant | 4-bromonapthalen-2-ol | 2.80 mmol, 0.625 g | BrC1=CC(=CC2=CC=CC=C12)O | C10H7BrO
reactant | aluminum chloride | 4.20 mmol, 0.561 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 2.8 mmol, 0.20 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloroethane | 2.5 mL | ClC(C)Cl | C2H4Cl2
product | 1-(4-bromo-2-hydroxynapthalen-1-yl)ethanone | 0.619 g, 83% | BrC1=CC(=C(C2=CC=CC=C12)C(C)=O)O | C12H9BrO2
